US06284785B1
(RS)-2-(4-Fluoro-phenyl)-1-(4-trifluoromethyl-benzenesulfonyl)-pyrrolidine
The title compound, white solid, m.p. 85° C. and MS: m/e=373 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 4-trifluoromethyl-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 4-trifluoromethyl-benzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | (RS)-2-(4-Fluoro-phenyl)-1-(4-trifluoromethyl-benzenesulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H15F4NO2S
